US09399619B2
5-Chlorosulfonyl-2-fluoro-benzoic acid (A, 0.506 g, 0.0021 mol), cyclopentylamine (B, 0.1806 g, 0.00212 mol) and diisopropylethyl amine (DIEA, 1.1 mL, 0.00636 mol) in CH2Cl2 were stirred at room temperature overnight. The solvent was evaporated and the crude product was purified by silica gel chromatography (MeOH containing 10% AcOH)/CH2Cl2) to give 5-cyclopentylsulfamoyl-2-fluoro -benzoic acid (C, 0.55 g, 90%). After drying overnight under vacuum, C (0.48 g, 0.0016 mol) in SOCl2 (5 mL) was heated at 80° C. for 3 hours, after which the SOCl2 was evaporated and the residue was dried overnight. The residue was then dissolved in tetrahydrofuran (5 mL), 3,4-Difluoro-phenylamine (D, 0.216 g, 0.00167 mol) was added followed by diisopropylethyl amine (0.5 mL). The mixture was heated to 70° C. overnight. The solvent was evaporated, followed by ethyl acetate extraction. After purification by silica gel chromatography (ethyl acetate/hexane), 0.3 g (45%) of 5-cyclopentylsulfamoyl-N-(3,4-difluoro-phenyl)-2-fluoro-benzamide (DVR-56) was obtained.

reactant | 5-Chlorosulfonyl-2-fluoro-benzoic acid | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C7H4ClFO4S
reactant | cyclopentylamine | 0.00212 mol, 0.1806 g | C1(CCCC1)N | C5H11N
reactant | diisopropylethyl amine | 0.00636 mol, 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-cyclopentylsulfamoyl-2-fluoro -benzoic acid | 0.55 g, 90% | C1(CCCC1)NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C12H14FNO4S
